US07442808B2
6-[2-Chloro-4-(trifluoromethyl)phenoxy]-1-benzofuran
To a stirred solution of 1-benzofuran-6-ol (418.5 mg, 3.1 mmol) in 6 ml of DMF was added 3-Chloro-4-fluorobenzotrifluoride (681.4 mg, 3.4 mmol) and cesium carbonate (1.5 g, 4.7 mmol). The reaction mixture was heated at 80° C. for 2 hours. After cooling to room temperature, it was diluted with ethyl acetate, washed with water (2×) and brine, dried over magnesium sulfate, filtered and concentrated. The crude product was purified on a silica gel column, eluting with ethyl acetate (0-30%) in hexane. The final product was collected as colorless oil. 1H NMR (CDCl3, δ ppm): 6.8 (s, 1H), 7.0 (two d, 2H), 7.2 (s, 1H), 7.4 (d, 1H), 7.6 (d, 1H), 7.7 (s, 1H), 7.8 (s, 1H).

reactant | 1-benzofuran-6-ol | 3.1 mmol, 418.5 mg | O1C=CC2=C1C=C(C=C2)O | C8H6O2
reactant | 3-Chloro-4-fluorobenzotrifluoride | 3.4 mmol, 681.4 mg | ClC=1C=C(C=CC1F)C(F)(F)F | C7H3ClF4
reactant | cesium carbonate | 4.7 mmol, 1.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[2-Chloro-4-(trifluoromethyl)phenoxy]-1-benzofuran | ClC1=C(OC2=CC3=C(C=CO3)C=C2)C=CC(=C1)C(F)(F)F | C15H8ClF3O2
